US08431575B2
A suspension of 4-(4-benzyloxy-phenyl)-3-butyl-6-(piperidin-4-ylmethoxy)-pyridazine dihydro chloride (0.37 mmol, 190 mg) and paraformaldehyde (6.7 mmol, 611 mg) in DCM was stirred for 20 min then sodium triacetoxyborohydride (6.7 mmol, 1.41 g) was added. Stirring was continued overnight. Solvent was evaporated, and to the residue was added saturated NaHCO3. The mixture was extracted with ethyl acetate. The organic layer was washed with water, brine, dried (Na2SO4), filtered and concentrated under reduced pressure. The resultant product was purified by column chromatography using 5% methanolic solution of ammonia (2.0 M ammonia in methanol) in DCM to provide 4-(4-benzyloxy-phenyl)-3-butyl-6-(1-methyl-piperidin-4-ylmethoxy)-pyridazine.

reactant | 4-(4-benzyloxy-phenyl)-3-butyl-6-(piperidin-4-ylmethoxy)-pyridazine dihydro chloride | 0.37 mmol, 190 mg | Cl.Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=C(N=NC(=C1)OCC1CCNCC1)CCCC
reactant | paraformaldehyde | 6.7 mmol, 611 mg | C=O | CH2O
reactant | sodium triacetoxyborohydride | 6.7 mmol, 1.41 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(4-benzyloxy-phenyl)-3-butyl-6-(1-methyl-piperidin-4-ylmethoxy)-pyridazine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=C(N=NC(=C1)OCC1CCN(CC1)C)CCCC | C28H35N3O2
